US07919630B2
3-Allyl-5-benzyl-2-thiohydantoin
A flask equipped with a magnetic stirrer was charged with phenylalanine (15.8 g, 0.100 mol), triethylamine (11.1 g, 0.11 mol) pyridine (100 mL), and water (50 mL). Allyl isothiocyanate (10.4 g, 0.11 mol) was added to the flask, and the mixture was kept at 40-450 for 4 hr. the mixture was cooled to room temperature and was then extracted with 3×200 mL of toluene. The aqueous phase was mixed with concentrated hydrochloric acid (16 mL, 0.19 mol) and boiled gently for 45 min. The reaction mixture was stirred rapidly as it cooled to room temperature. It was further cooled in an ice-water bath for 20 min, and the solid that had formed was collected and washed with water.

reactant | phenylalanine | 0.100 mol, 15.8 g | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | triethylamine | 0.11 mol, 100 mL, 11.1 g | C(C)N(CC)CC | C6H15N
reactant | Allyl isothiocyanate | 0.11 mol, 10.4 g | C(C=C)N=C=S | C4H5NS
reactant | hydrochloric acid | 0.19 mol, 16 mL | Cl | ClH
solvent | water | 50 mL | O | H2O
product | 3-Allyl-5-benzyl-2-thiohydantoin | C(C=C)N1C(NC(C1=O)CC1=CC=CC=C1)=S | C13H14N2OS
